### PR TITLE
[Merged by Bors] - feat(CategoryTheory/Shift): lifting of single functors

### PR DESCRIPTION
**Pull request by joelriou**
Let `C`, `D` and `E` be categories. Let `A` be an additive monoid. Assume that `D` and `E` have shifts by `A` and that we have a fully faithful functor `G : D ⥤ A` which commutes with shifts. Given `F : SingleFunctors C E A`, and a family of functors `Φ a : C ⥤ D` with isomorphisms `Φ a ⋙ G ≅ F.functor a` for all `a : A`, we lift `F` in `SingleFunctor C D A`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Shift/CommShift.lean [hunk 1]
```diff
@@ -173,16 +173,26 @@ variable [F.CommShift A]
...
 lemma commShiftIso_inv_naturality {X Y : C} (f : X ⟶ Y) (a : A) :
-    (F.map f)⟦a⟧' ≫ (F.commShiftIso a).inv.app Y =
+    dsimp% (F.map f)⟦a⟧' ≫ (F.commShiftIso a).inv.app Y =
       (F.commShiftIso a).inv.app X ≫ F.map (f⟦a⟧') :=
   (F.commShiftIso a).inv.naturality f
 
+@[reassoc (attr := simp)]
+lemma commShiftIso_hom_inv_id_apply (X : C) (a : A) :
+    dsimp% (F.commShiftIso a).hom.app X ≫ (F.commShiftIso a).inv.app X = 𝟙 _ :=
+  (F.commShiftIso a).hom_inv_id_app X
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/Shift/CommShift.lean]: With `set_option backward.isDefEq.respectTransparency false in` this is proved by `simp` (indeed, `Iso.hom_inv_id_app` is a simp lemma). I'm not sure exactly what's going on. But at least add a comment saying these lemmas are (ideally) just a temporary hack. Also, I think they should be named `_app` and not `_apply`

File: Mathlib/CategoryTheory/Shift/CommShift.lean [hunk 2]
```diff
@@ -173,16 +173,26 @@ variable [F.CommShift A]
 
 @[reassoc (attr := simp)]
 lemma commShiftIso_hom_naturality {X Y : C} (f : X ⟶ Y) (a : A) :
-    F.map (f⟦a⟧') ≫ (F.commShiftIso a).hom.app Y =
+    dsimp% F.map (f⟦a⟧') ≫ (F.commShiftIso a).hom.app Y =
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/Shift/CommShift.lean:176]: Can this lemma and the next be replaced by a general simp lemma for naturality of a `NatTrans` between compositions of functors?

File: Mathlib/CategoryTheory/Shift/SingleFunctorsLift.lean [hunk 3]
```diff
@@ -0,0 +1,119 @@
...
+  functor := Φ
+  shiftIso := lift.shiftIso hΦ
+  shiftIso_zero a := by
+    ext X
+    apply G.map_injective
+    dsimp
+    rw [lift.map_shiftIso_hom_app, Functor.commShiftIso_zero,
+      CommShift.isoZero_hom_app, shiftIso_zero_hom_app, assoc,
+      dsimp% NatIso.naturality_1_assoc (shiftFunctorZero E A) ((hΦ a).hom.app X),
+      dsimp% (hΦ a).hom_inv_id_app X, comp_id]
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/Shift/SingleFunctorsLift.lean]: It is a bit worrying how poorly automation works without `set_option backward.isDefEq.respectTranspacency false`, e.g. this proof would become:

```lean
ext X
apply G.map_injective
simp [lift.map_shiftIso_hom_app, Functor.commShiftIso_zero]
```

I know we don't want to add more of these `set_option`s, but I find it really hard to accept having to write less automated proofs. I also don't know what is the root cause of automation failing here

File: Mathlib/CategoryTheory/Shift/CommShift.lean (hunk 2 above)
Comment (joelriou) [reply Mathlib/CategoryTheory/Shift/CommShift.lean:176]: Yes, probably, but I would prefer we keep specialized lemmas for such situations rather than introducing many variants depending on how many functors (from `0` (= the identity functor) to at least `2`) there are in the source or the target.

File: Mathlib/CategoryTheory/Shift/CommShift.lean (hunk 1 above)
Comment (joelriou) [reply Mathlib/CategoryTheory/Shift/CommShift.lean]: Thanks for the suggestion!

File: Mathlib/CategoryTheory/Shift/SingleFunctorsLift.lean (hunk 3 above)
Comment (joelriou) [reply Mathlib/CategoryTheory/Shift/SingleFunctorsLift.lean]: The reason is that `hΦ` is a natural isomorphism from a composition of two functors (and similarly `shiftFunctorZero` involves an identity functor). A few years ago, in Lean 3, I may have used `erw`. In Lean 4, more automation may have worked before the introduction of `backward.isDefEq.respectTranspacency`. Since them, part of the issues can be mitigated by introducing some lemmas in `dsimp%`-ed form (which I am also doing in this PR) or by using `dsimp%` directly. After https://github.com/leanprover/lean4/pull/13492 we will have to find a replacement for the `dsimp` tactic...

Comment (dagurtomas) [reply Mathlib/CategoryTheory/Shift/SingleFunctorsLift.lean]: When there are such regressions in automation, I would argue that we should keep the `backward` options until we have fixed automation so that a similarly automated proof works without the `backward` options.

Comment (joelriou) [reply Mathlib/CategoryTheory/Shift/SingleFunctorsLift.lean]: Ok, I have added the `set_option`.

**Comment by dagurtomas** [comment]
Ok, I'm fine with merging this now, but note the added `set_option` and the discussion [above](https://github.com/leanprover-community/mathlib4/pull/38632#discussion_r3169638564). 

maintainer merge?

**Comment by kim-em** [comment]
bors merge
